US05492964
To a suspension of 2-methyl-1,4-dihydrobenzoic acid (0.085g, 0.50 mmol; 81% pure, from Aldrich Chemical Company) in decalin (5 mL) under a nitrogen atmosphere is added a polysiloxane matrix material containing a homogenous dispersion of rhodium and aluminum (0.100 g). The solution is heated to reflux for 19 hours. On cooling the reaction mixture is diluted with hexane (25 mL) and extracted with aqueous sodium hydroxide (5%) solution (2×5 mL). The basic aqueous solution is acidified and extracted with chloroform (3×4 mL). The combined organic layer is dried over anhydrous sodium sulfate. The solvent is evaporated using a rotary evaporator to give 2-methylbenzoic acid.

reactant | 2-methyl-1,4-dihydrobenzoic acid | 0.50 mmol, 0.085g | CC=1C(C(=O)O)C=CCC1 | C8H10O2
reactant | polysiloxane | [SiH2](O[*:2])[*:1]
reactant | aluminum | 0.100 g | [Al] | Al
solvent | decalin | 5 mL | C1CCCC2CCCCC12 | C10H18
solvent | hexane | 25 mL | CCCCCC | C6H14
catalyst | rhodium | [Rh] | Rh
product | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
